US07829560B2
3-Fluoro-N-[4-({2-[(2-methoxyethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B319).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-methoxyethylamine according to conditions described in general procedure C. Mp: 95-97° C.; 1H NMR (400 MHz, CDCl3) δ 3.25 (t, J=4.7 Hz, 4 H), 3.29 (s, 3 H), 3.43 (bs, 4 H), 3.87 (t, J=4.7 Hz, 4 H), 5.32 (s, 1 H), 6.10 (s, 1 H), 6.77 (d, J=12.3 Hz, 1 H), 7.07 (d, J=7.8 Hz, 1 H), 7.28-7.32 (m, 2 H), 7.50-7.59 (m, 2 H), 7.89-7.98 (m, 3 H), 8.13 (s, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 3-Fluoro-N-[4-({2-[(2-methoxyethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCOC)C=C(C1)N1CCOCC1 | C28H28FN5O4
